US05977098
To a solution of 2-(3-methoxyphenyl)-3-(4-benzyloxyphenoxy)benzo[b]thiophene (8.30 g, 29.0 mmol) in 1:1 (100 mL) EtOH/EtOAc in a Paar bottle was added 10% Pd/C (4.0 g). To this suspension was added 2.0 mL of con. HCl. The resulting mixture was hydrogenated at 40 psi for 20 min. The reaction was filtered through Celite®, and the filtrate was concentrated in vacuo to an oil. The crude product was partitioned between CHCl3 and sat. NaHCO3 solution. The layers were separated, and the organic was dried (Na2SO4) and concentrated in vacuo to give 3.8 g (61%) of 2-(3-methoxyphenyl)-3-(4-hydroxyphenoxy)benzo[b]thiophene as an amber brown foam. 1H NMR (CDCl3) d 7.80 (d, J=8.1 Hz, 1H), 7.46-7.27 (m, 6H), 6.88-6.84 (m, 3H), 6.71-6.74 (m, 2H), 4.57 (s, 1H), 3.77 (s, 3H). FD mass spec: 348. Anal. Calcd. for C21H16O3S: C, 72.39; H, 4.63. Found: C, 72.10; H, 4.63.

reactant | 2-(3-methoxyphenyl)-3-(4-benzyloxyphenoxy)benzo[b]thiophene | 29.0 mmol, 8.30 g | COC=1C=C(C=CC1)C1=C(C2=C(S1)C=CC=C2)OC2=CC=C(C=C2)OCC2=CC=CC=C2 | C28H22O3S
reactant | HCl | Cl | ClH
solvent | EtOH EtOAc | 100 mL | CCO.CCOC(=O)C
catalyst | Pd/C | 4.0 g | [Pd] | Pd
product | 2-(3-methoxyphenyl)-3-(4-hydroxyphenoxy)benzo[b]thiophene | 3.8 g, 61% | COC=1C=C(C=CC1)C1=C(C2=C(S1)C=CC=C2)OC2=CC=C(C=C2)O | C21H16O3S
